US07265246B2
Prepare a cold (0° C.) solution of 2-(3-oxobutyl)isoindole-1,3-dione (6.8 g, 31.5 mmol) in methanol (50 mL). Add Br2 (3.2 mL, 63 mmol). Allow the reaction to warm to room temperature and stir for 15 hours. Add 10 M sulfuric acid (26 mL) and stir the mixture for 15 hours. Filter off the solids and dry in vacuo to afford 2-(4-bromo-3-oxobutyl)isoindole-1,3-dione (2.3 g).

reactant | 2-(3-oxobutyl)isoindole-1,3-dione | 31.5 mmol, 6.8 g | O=C(CCN1C(C2=CC=CC=C2C1=O)=O)C | C12H11NO3
reactant | Br2 | 63 mmol, 3.2 mL | BrBr | Br2
reactant | sulfuric acid | 10 M, 26 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 50 mL | CO | CH4O
product | 2-(4-bromo-3-oxobutyl)isoindole-1,3-dione | 2.3 g | BrCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C12H10BrNO3
